US05189054
Scheme I, step d2: 3-[(Phenylsulfonyl)amino]-2-carbethoxy-4,6-dichloro-tert-butyloxycarbonyl-indole
Dissolve 3-[(phenylsulfonyl)amino]-2-carbethoxy-4,6-dichloroindole (5.0 g, 12.10 mmol) in anhydrous tetrahydrofuran (200ml) and add di-tert-butyldicarbonate (2.91 g, 13.31 mmol), followed by dimethylaminopyridine (0.15 g, 1.21 mmol). Stir at room temperature for 24 hours, pour into 1N hydrochloric acid (200 mL) and extract into ethyl acetate. Wash with saturated sodium chloride, dry (MgSO4) and evaporate the solvent in vacuo to give 6.34 g crude product. Recrystallize (ethyl acetate/hexane) to give the title compound.

reactant | 3-[(phenylsulfonyl)amino]-2-carbethoxy-4,6-dichloroindole | 12.10 mmol, 5.0 g | C1(=CC=CC=C1)S(=O)(=O)NC1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCC | C17H14Cl2N2O4S
reactant | di-tert-butyldicarbonate | 13.31 mmol, 2.91 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylaminopyridine | 1.21 mmol, 0.15 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | hydrochloric acid | 1N, 200 mL | Cl | ClH
solvent | tetrahydrofuran | 200ml | O1CCCC1 | C4H8O
product | 3-[(Phenylsulfonyl)amino]-2-carbethoxy-4,6-dichloro-tert-butyloxycarbonyl-indole | C1(=CC=CC=C1)S(=O)(=O)NC1=C(NC2=CC(=C(C(=C12)Cl)C(=O)OC(C)(C)C)Cl)C(=O)OCC | C22H22Cl2N2O6S
